* H:\+--- Sortierte Dokumente ---+\GitHub\CATs-Eurosynth\Modules\HAGIWO\Arduino VCO\Simulation\Arduino VCO Output Stage.asc
V1 +V 0 12
V2 0 -V 12
R1 N002 Filter_In 3.9k
C1 N002 0 22n
XU1 0 N001 +V -V Filter_Out TL072
R4 Out N007 1k
V3 N005 0 SINE(0.5 0.5 1k)
A1 N005 N006 0 0 0 0 Filter_In 0 SCHMITT ref=0 vlow=0 vhigh={vout} td=10p trise=1p tfall=1p
V4 N006 0 PULSE(0 1 0 {0.5/freq} {0.5/freq} 1p {1/freq})
R2 N001 N002 2.7k
V5 N003 0 5
XU2 0 N004 +V -V N007 TL072
R5 N004 Filter_Out 100k
R6 N004 N003 100k
R7 N007 N004 100k
R3 Filter_Out N002 7.5k
C2 Filter_Out N001 3.3n
.param freq=125k vout=5
.tran 100m
.lib TL072.lib
.backanno
.end
