* H:\+--- Sortierte Dokumente ---+\GitHub\CATs-Eurosynth\Modules\HAGIWO\VCF Diode Ladder Filter\Simulation\VCF Diode Ladder Filter.asc
V1 +V 0 12
V2 0 -V 12
V3 Signal 0 PULSE(-5 5 1p 9m 1p 1p 9m)
V4 CV 0 PULSE(0 5 1p 2 2 1p 4)
XX1 Signal N016 0 pot params: R=100K Val=100
R1 N017 N016 10k
R2 N017 0 33k
C1 N018 N017 10µ
Q1 N014 N018 N020 0 MMBT3904
C2 N015 N014 47n
Q2 N015 N019 N020 0 MMBT3904
D3 N004 N009 1N4148
D1 N009 N012 1N4148
D2 N012 N014 1N4148
D4 N013 N015 1N4148
D5 N010 N013 1N4148
D6 N007 N010 1N4148
C3 N013 N012 47n
C4 N010 N009 47n
C5 N007 N004 47n
D7 P001 N004 1N4148
D8 P002 P001 1N4148
D9 N001 P002 1N4148
D10 P003 N007 1N4148
D11 P004 P003 1N4148
D12 N001 P004 1N4148
R3 +V N001 1k
R4 N002 N004 6.8k
R5 N006 N007 6.8k
R6 N006 0 100k
R7 N003 N002 82k
R8 N005 N003 1k
C6 Out N005 4.7µ
C7 N008 N003 4.7µ
XX2 N008 N011 0 pot params: R=100K Val=100
R9 N011 0 10k
C8 N011 N019 10µ
R10 N018 N021 2.2k
R11 N019 N021 2.2k
C9 N021 0 10µ
R12 N021 0 10k
R13 +V N021 10k
Q3 N020 0 N030 0 MMBT3904
R14 N030 -V 4.7k
Q4 N026 N028 N030 0 MMBT3904
R15 +V N026 4.7k
R16 N028 0 2.2k
R17 N028 N025 33k
R18 N025 N024 10k
R19 N029 0 10k
R20 N024 N023 33k
XX3 N022 N023 N027 pot params: R=100K Val=10
R21 +V N022 33k
R22 N027 -V 2.2k
R23 CV N024 10k
XU1 N006 N002 +V -V N003 LT1001
XU2 N029 N024 +V -V N025 LT1001

* block symbol definitions
.subckt pot 1 2 3
R1 1 2 {Ra}
R2 2 3 {Rb}
.param Ra=R * (1 - Val/100) +1n
.param Rb=R * (Val/100) + 1n
.ends pot

.model D D
.lib H:\+--- Sortierte Dokumente ---+\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib H:\+--- Sortierte Dokumente ---+\LTspiceXVII\lib\cmp\standard.bjt
.tran 5
.wave "Filter.wav" 16 44.1k V(Out)
.lib LTC.lib
.backanno
.end
